US06756378B2
To a stirred solution of dimethyl 4-hydroxyphthalate (3.00 g, 14.27 mmol), N-Boc-prolinol (2.87 g, 14.26 mmol), Ph3P (4.49 g, 17.12 mmol) in THF (50 mL) was added DIAD (3.40 mL, 17.27 mmol) at 0° C. Then the resulting mixture was heated under reflux overnight. The resulting mixture was evaporated and the residue was purified by column chromatography on silica-gel with n-hexane-EtOAc (3:1, v/v) as eluent to give 5.75 g (q.y.) dimethyl (S)-4-[1-(tert-butoxycarbonyl)-2-pyrrolidinyl methoxy]phthalate as an oil. 1H-NMR (CDCl3) δ1.47 (s, 9 H), 1.86-2.05 (m, 4 H), 3.36-3.40 (m, 2 H), 3.87 (m, 3 H), 3.91 (s, 3 H), 3.96-4.19 (m, 3 H), 7.03-7.24 (m, 2 H), 7.80 (m, 1H).

reactant | dimethyl 4-hydroxyphthalate | 14.27 mmol, 3.00 g | OC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C10H10O5
reactant | N-Boc-prolinol | 14.26 mmol, 2.87 g | C(=O)(OC(C)(C)C)N1[C@H](CO)CCC1 | C10H19NO3
reactant | Ph3P | 17.12 mmol, 4.49 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 17.27 mmol, 3.40 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | dimethyl (S)-4-[1-(tert-butoxycarbonyl)-2-pyrrolidinyl methoxy]phthalate | 5.75 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C20H27NO7
